datasets/10k__Tet_Int.csv
SMILES Labelled
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])[H])C.[O-:21][H]>>C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21][H])[H])C 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]([NH:21]C)([O]CC)[NH][H].[Cl-]>>[Cl-].[H][NH:10][H].C[NH+:21]=[C:20]([O]CC)[NH][H] 21=20;20,10=10"
"[H][O+:10](C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"[H][O:10][H].CC[NH+:21]=[C:20]([NH]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]CC)([NH]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1([H])[O:10]C(CCC)C(O)=C1O>>[O-:10]C(CCC)/C(O)=C([C:20]([H])=[O:21])/O 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C)[CH](C)C([H])[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C(C)[CH]([H])[S]1 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(CC)[O]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(CC)[O][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].CC[NH+:21]=[C:20]([NH]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]CC)([NH]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)[H].[O-:21]C>>CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)C1=CC=CC=C1)[H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)C1=CC=CC=C1)[O-:10])C>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)C1=CC=CC=C1)C 10=20;20,21=21"
"CCN([C:20]1(OC(C(C([O:21]1)[H])[H])C1=CC=CC=C1)[O-:10])CC>>CCN([C:20](=[O:10])OC(C(C([O-:21])[H])[H])C1=CC=CC=C1)CC 10=20;20,21=21"
"C[NH:10][H].[H][NH+:21]=[C:20]([NH]CC)[O][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21][H])([NH]CC)[O][H] 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][NH+:10](C([H])C(C)[O]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)[O][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
"[OH:21][C:20]1(OC)C([H])=C(C)C([H])C(C)[OH+:10]1>>[OH:10]C(C)C([H])/C(C)=C([H])\[C:20](OC)=[OH+:21] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C([H])[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"CC[O:10][H].[H][O+:21]=[C:20]([S]C8=CC=CC=C8)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21][H])([S]C8=CC=CC=C8)[S]C7=CC=CC=C7 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)C)[H].[O-:21][H]>>[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])C)[H] 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)[H])C)[H])[O-:10])CC>>CN([C:20](=[O:10])OC(C(C([O-:21])[H])C)[H])CC 10=20;20,21=21"
"[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[S][C:20]([S]C)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[S]C 10=20;20,21=21"
"[NH:10](C)C(C)C(C)/C(C)=C([H])\[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])=C(C)C(C)C(C)[NH+:10]1(C) 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[O-:10]C(C(C1=C(C=CC=C1)[CH:20](C)=[O:21])O)[H]>>[O-:21][CH:20]2(C)C3=C(C(C([O:10]2)[H])O)C=CC=C3  10=20;20,21=21"
"[O-:21][CH:20]2(OCC)C(C3=C(C([NH+:10]2(C))C)C=CC=C3)O>>[NH:10](C)C(C1=C(C([CH:20](OCC)=[O:21])O)C=CC=C1)C 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)C1=CC=CC=C1)CCCCCC>>CN([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)C1=CC=CC=C1)[O-:10])CCCCCC 21=20;20,10=10"
"[O-:21][C:20]1(C)[O:10]C([H])C([H])C1C>>[O-:10]C([H])C([H])C([C:20](C)=[O:21])C 21=20;20,10=10"
"[H][S:10][H].[H][O+:21]=[C:20]([O]C)[O][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21][H])([O]C)[O][H] 10=20;20,21=21"
"[H][O+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C8=CC=CC=C8)[O][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"[H][NH:10]C(C)C([H])C(CC)[O][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(CC)[O]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"[O-:21][C:20]1(OC)[O:10]C(CC)C(O)=C1[H]>>[O-:10]C(CC)/C(O)=C([C:20](OC)=[O:21])/[H] 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(C)[NH][C:20]([O]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O:10]C(C)C(C)[NH][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H] 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)[O][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C(C)[CH](C)[O]1 10=20;20,21=21"
